US07847101B2
Synthesis of 4-(5-fluoro-6-methoxybenzothiazol-2-yl)-5-furan-2-yl-2H-pyrazol-3-ylamine (549-60)
To a suspension of 2-(5-fluoro-6-methoxybenzothiazol-2-yl)-3-furan-2-yl-3-hydroxyacrylonitrile (70 mg, 0.199 mmol) in anhydrous dichloromethane (3 mL) and carbon tetrachloride (2 mL) was added triphenylphosphine (175 mg, 0.667 mmol). The reaction mixture was stirred at reflux for three hours then at room temperature overnight to give a dark brown solution containing 3-chloro-2-(5-fluoro-6-methoxybenzothiazol-2-yl)-3-furan-2-ylacrylonitrile. Hydrazine monohydrate (30 μL, 0.62 mmol) and methanol (1 mL) were then added and the solution was refluxed for 2 hrs. At this point, conc. HCl (0.7 mL) was added and the solution was refluxed for an additional hour. The mixture was then cooled to room temperature and neutralized with ammonium hydroxide. The solvent was evaporated and the crude product was purified by flash column chromatography eluting with CH2Cl2:MeOH=9:1 to yield 15 mg (21%) of the title compound as a brown solid. MS (m/z, ES+): 331.1 (M+1, 100%).

reactant | 2-(5-fluoro-6-methoxybenzothiazol-2-yl)-3-furan-2-yl-3-hydroxyacrylonitrile | 0.199 mmol, 70 mg | FC=1C(=CC2=C(N=C(S2)C(C#N)=C(O)C=2OC=CC2)C1)OC | C15H9FN2O3S
reactant | triphenylphosphine | 0.667 mmol, 175 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-chloro-2-(5-fluoro-6-methoxybenzothiazol-2-yl)-3-furan-2-ylacrylonitrile | ClC(=C(C#N)C=1SC2=C(N1)C=C(C(=C2)OC)F)C=2OC=CC2 | C15H8ClFN2O2S
reactant | Hydrazine monohydrate | 0.62 mmol, 30 μL | O.NN
reactant | HCl | 0.7 mL | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methanol | 1 mL | CO | CH4O
product | 4-(5-fluoro-6-methoxybenzothiazol-2-yl)-5-furan-2-yl-2H-pyrazol-3-ylamine | 15 mg, 21% | FC=1C(=CC2=C(N=C(S2)C2=C(NN=C2C=2OC=CC2)N)C1)OC | C15H11FN4O2S
